US07196111B2
Alkylation of 7-cyclohexyl-6-(4-hydroxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile with 2-bromomethyl-4′-chloro-biphenyl-4-carboxylic acid methyl ester was carried out in dimethylformamide (DMF) using cesium carbonate and following a previously described experimental procedure to give 4′-chloro-2-[4-(3-cyano-7-cyclohexyl-pyrazolo[1,5-a]pyrimidin-6-yl)-phenoxymethyl]-biphenyl-4-carboxylic acid methyl ester. This compound was converted to its corresponding tetrazole 4′-chloro-2-{4-[7-cyclohexyl-3-(1H-tetrazol-5-yl)-pyrazolo[1,5-a]pyrimidin-6-yl]-phenoxymethyl}-biphenyl-4-carboxylic acid methyl ester (475) via a previously described procedure. Finally, 4′-chloro-2-{4-[7-cyclohexyl-3-(1H-tetrazol-5-yl)-pyrazolo[1,5-a]pyrimidin-6-yl]-phenoxymethyl}-biphenyl-4-carboxylic acid (490) was obtained following a standard LiOH saponification protocol.

reactant | 7-cyclohexyl-6-(4-hydroxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | C1(CCCCC1)C1=C(C=NC=2N1N=CC2C#N)C2=CC=C(C=C2)O | C19H18N4O
reactant | 2-bromomethyl-4′-chloro-biphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)CBr | C15H12BrClO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4′-chloro-2-[4-(3-cyano-7-cyclohexyl-pyrazolo[1,5-a]pyrimidin-6-yl)-phenoxymethyl]-biphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)COC1=CC=C(C=C1)C=1C=NC=2N(C1C1CCCCC1)N=CC2C#N | C34H29ClN4O3
